* C:\Users\gd48aa\OneDrive - Aalborg Universitet\Documents\PhD CoDE\automatedDCDC\LTSpiceModelExtraction\Rdson\RdsonTestBench.asc
L1 0 ds 120
  XU2  ds g 0 tj tj C2M0080120D
 V2 tj 0 {Tj}
  V1 g 0 20
  B1 Rdson 0 V=V(ds)/{id}
 .ic I(L1) = {id}
  .lib C:\Users\gd48aa\OneDrive - Aalborg Universitet\Documents\LTspiceXVII\lib\SicMOSFET\Wolfspeed\C2M0080120D.lib
  .param id = 20
 .param Tj = 150.1
 .tran 0 10n 0 0.1n
  .meas Rdson FIND V(Rdson) AT 10ns
 .backanno
 .end
  